US04343815
Tri-t-butyltin chloride.
A suspension of di-t-butyltin chloride fluoride (5.0 g., 0.017 mole) in heptane (100 ml.) was cooled to -78° C., and a pentane solution of t-butyl-lithium (20 ml., 1.95 M) was added dropwise. After the addition was completed, stirring was continued for 2 hrs., the cooling bath was removed, and the mixture was allowed to warm to room temperature with stirring for 6 more hrs. The resulting pale yellow mixture was worked up to give a thick, pale yellow oil which was chromatographed with pentane. Evaporation of the solvent left a clear oil which solidified spontaneously (5.0 g., 88.3%), m.p. 31-32; (b.p. 122°-123°/5 mm. (Found: C, 44.15; H, 8.15; Cl, 10.95. C12H27ClSn requires C, 44.3; H, 8.35; Cl, 10.9%); n.m.r. 61.35 (s).

reactant | di-t-butyltin chloride fluoride | 0.017 mole, 5.0 g | C(C)(C)(C)[Sn](C(C)(C)C)(F)Cl
reactant | pentane | CCCCC | C5H12
reactant | t-butyl-lithium | 1.95 M, 20 ml | C(C)(C)(C)[Li]
solvent | heptane | 100 ml | CCCCCCC | C7H16
product | Tri-t-butyltin chloride | C(C)(C)(C)[Sn](C(C)(C)C)(C(C)(C)C)Cl | InChI=1S/3C4H9.ClH.Sn/c3*1-4(2)3;;/h3*1-3H3;1H;/q;;;;+1/p-1
